US07504401B2
N-[3-bromo-5-(pyridine-3-carbonyl)-phenyl]-propionamide was converted to N-[3-(pyridine-3-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-propionamide, and the triisopropylsilyl group was removed with tetra n-butylammonium fluoride to give N-[3-(1H-indol-4-yl)-5-(pyridine-3-carbonyl)-phenyl]-propionamide as described in Example 35. 1H NMR (400 MHz, DMSO-d6): δ 11.30 (s, 1H), 10.20 (s, 1H), 8.95 (s, 1H), 8.82 (d, J=3.5 Hz, 1H), 8.32 (s, 1H), 8.17 (d, J=7.8 Hz, 1H), 8.02 (s, 1H), 7.66 (s, 1H), 7.60 (dd, J=7.7, 5.0 Hz, 1H), 7.45-7.41 (m, 2H), 7.17 (t, J=7.6 Hz, 1H), 7.10 (d, J=6.6 Hz, 1H), 6.62 (s, 1H), 2.35 (q, J=7.5 Hz, 2H), 1.08 (t, J=7.6 Hz, 3H).

reactant | N-[3-bromo-5-(pyridine-3-carbonyl)-phenyl]-propionamide | BrC=1C=C(C=C(C1)C(=O)C=1C=NC=CC1)NC(CC)=O | C15H13BrN2O2
reactant | N-[3-(pyridine-3-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-propionamide | N1=CC(=CC=C1)C(=O)C=1C=C(C=C(C1)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)NC(CC)=O | C32H39N3O2Si
product | N-[3-(1H-indol-4-yl)-5-(pyridine-3-carbonyl)-phenyl]-propionamide | N1C=CC2=C(C=CC=C12)C=1C=C(C=C(C1)C(=O)C=1C=NC=CC1)NC(CC)=O | C23H19N3O2
